US04375432
A process for preparing VCR and formylleurosine which comprises oxidizing a tetrahydrofuran solution of the crude dimeric indole-dihydroindole alkaloids obtainable by extraction from the leaves of Vinca rosea in which VLB and leurosine are the predominant alkaloids with an aqueous chromate-sulfuric acid oxidizing solution at a temperature in the range about -80° C. to about -50° C. until substantially all the VLB and leurosine initially present are converted to vincristine and formylleurosine respectively, optionally reformylating any 1-desformyl congeners present, and then separating vincristine and formylleurosine therefrom by chromatography.

reactant | formylleurosine | CC[C@]12CN3CCC4=C([C@](C[C@H](C3)[C@H]1O2)(C5=C(C=C6C(=C5)[C@]78CCN9[C@H]7[C@@](C=CC9)([C@H]([C@@]([C@@H]8N6C=O)(C(=O)OC)O)OC(=O)C)CC)OC)C(=O)OC)NC1=CC=CC=C41 | C46H54N4O10
reactant | indole dihydroindole | N1C=CC2=CC=CC=C12.N1CCC2=CC=CC=C12
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | leurosine | CC[C@]12CN3CCC=4C=5C=CC=CC5NC4[C@](C[C@H](C3)[C@H]1O2)(C=6C=C7C(=CC6OC)N([C@@H]8[C@]79CCN1[C@H]9[C@@](C=CC1)([C@H]([C@@]8(C(=O)OC)O)OC(=O)C)CC)C)C(=O)OC | C46H56N4O9
